US06734183B2
(i) ethyl 3-(5-chloropyridin-3-yl)propanoate
To a stirred solution of ethyl (2E)-3-(5-chloropyridin-3-yl)prop-2-enoate (338 mg, 1.6 mmol) [CAS number 163083-45-2] in dry ethanol (10 mL) at 0° C. under an atmosphere of argon was added solid sodium borohydride (67 mg, 1.75 mmol). The reaction mixture was allowed to warm to room temperature and stirred for four hours, whereupon additional sodium borohydride (67 mg, 1.75 mmol) was added. After stirring for an additional eighteen hours, saturated aqueous ammonium chloride solution (5 mL) was added. Volatiles were removed in vacuo, and the residue partitioned between water (10 mL) and ethyl acetate (10 mL). The layers were separated and the aqueous phase extracted with ethyl acetate (3×10 mL). The combined organic extracts were then dried (MgSO4), filtered and concentrated in vacuo. Flash chromatography (silica gel, 20% to 100% ethyl acetate in hexane) gave the title compound (132 mg, 0.62 mmol) and the saturated alcohol (70 mg).

reactant | ethyl (2E)-3-(5-chloropyridin-3-yl)prop-2-enoate | 1.6 mmol, 338 mg | ClC=1C=C(C=NC1)/C=C/C(=O)OCC | C10H10ClNO2
reactant | sodium borohydride | 1.75 mmol, 67 mg | [BH4-].[Na+]
reactant | sodium borohydride | 1.75 mmol, 67 mg | [BH4-].[Na+]
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | ethyl 3-(5-chloropyridin-3-yl)propanoate | 0.62 mmol, 132 mg | ClC=1C=C(C=NC1)CCC(=O)OCC | C10H12ClNO2
